US08236801B2
B.3.1 Synthesis of (1R,3S,4S)-3-[(2,2,2-Trifluoro-acetylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
Ethyl trifluoroacetate (12.2 mmol, 1.30 eq) is added to a solution of (1R,3S,4S)-3-aminomethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (9.42 mmol, 1.00 eq) and DIPEA (14.1 mmol, 1.50 eq) in THF (25 mL). After 50 min the mixture is concentrated in vacuo, diluted with TBME (100 mL) and washed twice with aq. citric acid (5%) and water respectively. The organic layer is dried over MgSO4 and concentrated in vacuo to give a crude product which is used without further purification. LC-MS (basic): tR=0.95 min; [M+H]+=323.2.

reactant | Ethyl trifluoroacetate | 12.2 mmol, 1.30 eq | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | (1R,3S,4S)-3-aminomethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 9.42 mmol, 1.00 eq | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CN)C2 | C12H22N2O2
reactant | DIPEA | 14.1 mmol, 1.50 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (1R,3S,4S)-3-[(2,2,2-Trifluoro-acetylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CNC(C(F)(F)F)=O)C2 | C14H21F3N2O3
